US05451700
A stirred, 0° C. solution of 4-[5-[4-(aminoiminomethyl)phenoxy]pentoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide monohydrochloride (1.9 g, 3.86 mmol) in 20 mL water is treated with 20 mL of 1.0 N aqueous sodium hydroxide. The solution is extracted sequentially with four 50 mL portions of dichloromethane. The combined organic solution is washed with brine, dried over sodium sulfate and concentrated to give 4-[5-[4-(aminoiminomethyl)phenoxy]pentoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide (1.75 g) as a colorless foam. A portion of this material (500 mg, 1.1 mmol) is dissolved in 1 mL ethanol and treated dropwise with a solution of maleic acid (127 mg) in 1 mL ethanol. Diethyl ether (10 mL) is added slowly dropwise to induce crystallization. The crystalline product is collected by filtration, washed with ether and dried to give 4-[5-[4(aminoiminomethyl)phenoxy]pentoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide (Z)-2-butenedioate (1:1 ), mp=145° -146° C.

reactant | 4-[5-[4-(aminoiminomethyl)phenoxy]pentoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide monohydrochloride | 3.86 mmol, 1.9 g | Cl.NN=CC1=CC=C(OCCCCCOC2=C(C=C(C(=O)N(C(C)C)C(C)C)C=C2)OC)C=C1
reactant | sodium hydroxide | 1.0 N, 20 mL | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
product | 4-[5-[4-(aminoiminomethyl)phenoxy]pentoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide | 1.75 g | NN=CC1=CC=C(OCCCCCOC2=C(C=C(C(=O)N(C(C)C)C(C)C)C=C2)OC)C=C1 | C26H37N3O4
